US08530468B2
3-(5-Cyanopyrazin-2-ylamino)-N-(2-morpholinoethyl)isoquinoline-8-carboxamide (AA-065)
A mixture of 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (33 mg, 0.10 mmol), N-(2-aminoethyl)morpholine (26 mg, 0.20 mmol), triphenylphosphine (8 mg, 0.030 mmol), and sodium acetate (3.3 mg, 0.040 mmol) in DMF (1 mL) was degassed by bubbling N2 through the solution for 5 mins. Palladium (II) acetate (6.8 mg, 0.030 mmol) was added and the mixture degassed for a further 5 minutes. Carbon monoxide was then bubbled through the solution for 5 minutes, before the reaction vessel was sealed. The solution was stirred at 80° C. under a balloon of carbon monoxide for 90 minutes and then partitioned between ethyl acetate and aqueous sodium hydrogen carbonate (2.5%). The phases were separated and the aqueous phase washed with ethyl acetate. The combined organic phases were washed with aqueous sodium hydrogen carbonate (2.5%) before being dried (Na2SO4) and then passed sequentially through two PS-Thiol cartridges and concentrated to dryness. Preparative HPLC gave the title compound (5.1 mg, 0.013 mmol, 12%). 1H NMR (d6-DMSO, 400 MHz) δ 11.05 (s, 1H), 9.58 (s, 1H), 8.83 (d, 1H, J=1.2 Hz), 8.73 (d, 1H, J=1.2 Hz), 8.63 (br t, 1H, J=5.8 Hz), 8.56 (s, 1H), 8.00 (d, 1H, J=8.4 Hz), 7.75 (dd, 1H, J=7.1, 8.3 Hz), 7.57 (d, 1H, J=6.8 Hz), 3.62-3.68 (m, 4H), 3.46-3.52 (m, 2H), 2.52-2.58 (m, 2H), 2.46-2.52 (m, 4H, partially obscured by DMSO). LC-MS (2) Rt=1.95 min; m/z (ESI+) 404 (M+H).

reactant | 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.10 mmol, 33 mg | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
reactant | N-(2-aminoethyl)morpholine | 0.20 mmol, 26 mg | NCCN1CCOCC1 | C6H14N2O
reactant | triphenylphosphine | 0.030 mmol, 8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium acetate | 0.040 mmol, 3.3 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Palladium (II) acetate | 0.030 mmol, 6.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(5-Cyanopyrazin-2-ylamino)-N-(2-morpholinoethyl)isoquinoline-8-carboxamide | 0.013 mmol, 5.1 mg, 12% | C(#N)C=1N=CC(=NC1)NC=1N=CC2=C(C=CC=C2C1)C(=O)NCCN1CCOCC1 | C21H21N7O2
